US05491152
Part B. The method of Speckamp et al., Tetrahedron Letters, v. 32, p. 1491 (1991), is employed here. Thus, a solution of ethyl 2-chloro-2-(phenylthio)acetate [prepared according to the method of Bohme et al., Liebigs Annalen der Chemie, p. 51 (1977)], 7-heptadecen-10-ol, andcatalytic zinc acetate dihydrate in benzene is heated to reflux under a Dean-Stark trap until the formation of hydrogen chloride is complete. Workup according to the listed reference affords ethyl 2-(1-heptyl-3-decen-1-oxy)-2-(phenylthio)acetate.

reactant | ethyl 2-chloro-2-(phenylthio)acetate | ClC(C(=O)OCC)SC1=CC=CC=C1 | C10H11ClO2S
reactant | 7-heptadecen-10-ol | CCCCCCC=CCC(CCCCCCC)O | C17H34O
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | zinc acetate dihydrate | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | ethyl 2-(1-heptyl-3-decen-1-oxy)-2-(phenylthio)acetate | C(CCCCCC)C(CC=CCCCCCC)OC(C(=O)OCC)SC1=CC=CC=C1 | C27H44O3S
